US07989454B2
3-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid tert-butyl ester
The title compound was prepared by the same method as 3-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-5-(4-methyl-thiophen-3-yl)-benzoic acid tert-butyl ester starting from 3-bromo-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid tert-butyl ester and 1,4-benzodioxane-6-boronic acid.

reactant | 3-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-5-(4-methyl-thiophen-3-yl)-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=CC(=C1)C1=CSC=C1C)OCCCCCCC1=C(C(=CC=C1)OCCCC(=O)OCC)CCC(=O)OCC)=O | C39H52O8S
reactant | 3-bromo-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=CC(=C1)OCCCCCCC1=C(C(=CC=C1)OCCCC(=O)OCC)CCC(=O)OCC)Br)=O | C34H47BrO8
reactant | 1,4-benzodioxane-6-boronic acid | O1CCOC2=C1C=CC(=C2)B(O)O | C8H9BO4
product | 3-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=CC(=C1)OCCCCCCC1=C(C(=CC=C1)OCCCC(=O)OCC)CCC(=O)OCC)C1=CC2=C(OCCO2)C=C1)=O | C42H54O10
